US06060484
A. 2-Phenyl-2-(quinol-2-yl)acetonitrile
The compound was prepared substantially in accordance with the procedure detailed in Example 12A, using 2-chloroquinoline (5.0 g, 30.6 mmol), benzyl cyanide (3.5 ml, 30.6 mmol) and potassium t-butoxide (6.87 g, 61.2 mmol) in 40 ml of DMF.

reactant | 2-chloroquinoline | 30.6 mmol, 5.0 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | benzyl cyanide | 30.6 mmol, 3.5 ml | C(C1=CC=CC=C1)C#N | C8H7N
reactant | potassium t-butoxide | 61.2 mmol, 6.87 g | CC(C)([O-])C.[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-Phenyl-2-(quinol-2-yl)acetonitrile | C1(=CC=CC=C1)C(C#N)C1=NC2=CC=CC=C2C=C1 | C17H12N2
